US04532240
N-[4-[ 4-(2,4-Diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid
A mixture of 1.3 g (2.47 mmole) of N-[4-[4-(2,4-diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]-benzoyl]-L-glutamic acid diethyl ester and 0.4 g (4.94 mmole) of a 50% aqueous sodium hydroxide solution in 300 ml of methanol was stirred at room temperature for four hours. One drop of 50% sodium hydroxide solution was added and the reaction mixture became a clear solution. Methanol was removed in vacuo below 23° C. The residue was dissolved in 200 ml of ice water and filtered. The filtrate was acidified with citric acid to pH 6. The precipitate was collected, washed with water, and triturated with boiling ethanol. After drying in vacuo at 78° C. for 16 hours, 0.9 g of the product was obtained as white powder, mp 280°-284° C.

reactant | N-[4-[4-(2,4-diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]-benzoyl]-L-glutamic acid diethyl ester | 2.47 mmole, 1.3 g | C(C)OC([C@@H](NC(C1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC(=NC1CCC)N)N)=O)CCC(=O)OCC)=O | C27H39N7O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
catalyst | sodium hydroxide | One drop | [OH-].[Na+]
product | N-[4-[ 4-(2,4-Diamino-6-propyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid | 0.9 g | NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)CCC | C23H31N7O5
